US06887874B2
A solution of sodium methoxide (freshly prepared from sodium (1.71 g) and methanol (35 ml)) was added to a solution of 1,2-difluoro-3-(2,2-dimethoxypropyl)-4-nitrobenzene (16.2 g, 62 mmol), (prepared as described above), in methanol (200 ml) cooled at 5° C. The mixture was left to warm to ambient temperature and was stirred for 3 days. The volatiles were removed under vacuum and the residue was partitioned between ethyl acetate and 2N hydrochloric acid (1 ml). The organic layer was concentrated to a total volume of 100 ml and THF (100 ml) and 6N hydrochloric acid (25 ml) were added. The mixture was stirred for 1 hour at ambient temperature. The volatiles were removed under vacuum and the residue was partitioned between ethyl acetate and water. The organic layer was separated, washed with water, brine, dried (MgSO4) and evaporated. The residue was purified by column chromatography eluting with ethyl acetate/petroleum ether (3/7) to give 3-acetylmethyl-2-fluoro-1-methoxy-4-nitrobenzene (12.7 g, 90%).

reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 1.71 g | [Na] | Na
reactant | 1,2-difluoro-3-(2,2-dimethoxypropyl)-4-nitrobenzene | 62 mmol, 16.2 g | FC1=C(C(=C(C=C1)[N+](=O)[O-])CC(C)(OC)OC)F | C11H13F2NO4
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 35 ml | CO | CH4O
product | 3-acetylmethyl-2-fluoro-1-methoxy-4-nitrobenzene | 12.7 g, 90% | C(C)(=O)CC=1C(=C(C=CC1[N+](=O)[O-])OC)F | C10H10FNO4
